US06855710B2
(Z)-3-[1-(4-guanidinophenylamino)-1-phenyl-methylidene]-2-in-dolinone
Prepared analogously to Example 71 from (Z)-3-[1-(4-aminophenylamino)-1-phenyl-methylidene]-2-indolinone and cyanamide in dioxane/hydrogen chloride.

reactant | (Z)-3-[1-(4-aminophenylamino)-1-phenyl-methylidene]-2-indolinone | NC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C21H17N3O
reactant | cyanamide | N#CN | CH2N2
solvent | dioxane hydrogen chloride | O1CCOCC1.Cl
product | (Z)-3-[1-(4-guanidinophenylamino)-1-phenyl-methylidene]-2-in-dolinone | N(C(=N)N)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C22H19N5O
